US05204018
1.7 g of 2,3-difluoro-4-dodecyloxybenzoic acid, 1.5 g of 4-[4E-(trans-4-pentylcyclohexyl)-3-butenyl]phenol and 0.1 g of 4-(dimethylamino)pyridine were dissolved in 250 ml of dichloromethane and the solution was treated portionwise within 10 minutes while stirring with 1/2 g of N,N'-dicyclohexylcarbodiimide. The mixture was stirred at room temperature overnight and then filtered. The filtrate was diluted with dichloromethane, washed twice with 50 ml of saturated sodium carbonate solution each time and then with 100 ml of water, dried over magnesium sulphate, filtered and then concentrated. Chromatography of the residue on silica gel with toluene and recrystallization from ethanol gave 2 g of 2,3-difluoro-4-dodecyloxybenzoic acid 4-[4E-(trans-4-pentylcyclohexyl)-3-butenyl]phenyl ester with m.p. (C-SC) 51° C., SC -N 115° C. and cl.p. (N-I) 133° C.

reactant | 2,3-difluoro-4-dodecyloxybenzoic acid | 1.7 g | FC1=C(C(=O)O)C=CC(=C1F)OCCCCCCCCCCCC | C19H28F2O3
reactant | 4-[4E-(trans-4-pentylcyclohexyl)-3-butenyl]phenol | 1.5 g | C(CCCC)[C@@H]1CC[C@H](CC1)/C=C/CCC1=CC=C(C=C1)O | C21H32O
reactant | N,N'-dicyclohexylcarbodiimide | 1/2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(dimethylamino)pyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2,3-difluoro-4-dodecyloxybenzoic acid 4-[4E-(trans-4-pentylcyclohexyl)-3-butenyl]phenyl ester | 2 g | C(CCCC)[C@@H]1CC[C@H](CC1)/C=C/CCC1=CC=C(C=C1)OC(C1=C(C(=C(C=C1)OCCCCCCCCCCCC)F)F)=O | C40H58F2O3
